US07141596B2
Step 3. Synthesis of 2-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-5-oxopyrrolidine-2-carbaldehyde
2-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-5-oxopyrrolidine-2-carbaldehyde (4.5 mg, 0.011 mmol) was stirred in trifluoroacetic acid (1 mL, 10 mmol) in a small microwave tube and heated to 130° C. for 60 seconds. The mixture was evaporated and used directly. LCMS found for C15H17N2O5S (M+H)+: m/z=337.

reactant | 2-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-5-oxopyrrolidine-2-carbaldehyde | 0.011 mmol, 4.5 mg | C(C)(C)(C)N1S(C(CC1=O)C1=CC=C(CC2(NC(CC2)=O)C=O)C=C1)(=O)=O | C19H24N2O5S
reactant | trifluoroacetic acid | 10 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-5-oxopyrrolidine-2-carbaldehyde | O=S1(NC(CC1C1=CC=C(CC2(NC(CC2)=O)C=O)C=C1)=O)=O | C15H16N2O5S
